US04923891
Ethyl 4-(mercaptomethyl)-2-methyl-1,3-dithiolane-2-propanoate
The title compound was prepared according to the procedure of Example 1 using 1,2,3-trimercaptopropane (5.6 g, 0.04 mol), ethyl levulinate (5.8 g, 0.04 mol) and boron trifluoride etherate (1.25 ml) in methylene chloride (150 ml). The crude product was chromatographed on silica gel using 5% ethyl acetate/hexane as eluent to give 3.35 g (31%) of product.

reactant | 1,2,3-trimercaptopropane | 0.04 mol, 5.6 g | SCC(CS)S | C3H8S3
reactant | ethyl levulinate | 0.04 mol, 5.8 g | C(CCC(=O)C)(=O)OCC | C7H12O3
reactant | boron trifluoride etherate | 1.25 ml | B(F)(F)F.CCOCC
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 4-(mercaptomethyl)-2-methyl-1,3-dithiolane-2-propanoate | SCC1SC(SC1)(CCC(=O)OCC)C | C10H18O2S3
